US08293768B2
Synthesis of 1-(5-(hydroxymethyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one
To a solution of ethyl 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylate (1.00 g, 2.41 mmol) in tetrahedrofuran (50 mL) was added lithium borohydride (2.7 mL of 2.0 M solution in tetrahedrofuran, 5.4 mmol) and methanol (0.10 mL, 2.47 mmol). The reaction mixture was stirred for 22 hours at ambient temperature and quenched with water. The resulting solution was extracted with chloroform and washed with water. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo, and the residue was purified by column chromatography to afford the title compound in 56% yield (0.51 g): mp 153-154° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 7.59 (d, J=8.1 Hz, 2H), 7.40 (d, J=8.1 Hz, 2H), 4.69 (d, J=5.1 Hz, 2H), 4.52 (s, 2H), 4.13-4.02 (m, 2H), 3.45-3.40 (m, 2H), 2.26 (s, 3H); MS (ES+) m/z 372.1 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylate | 2.41 mmol, 1.00 g | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H18F3N3O3S
reactant | lithium borohydride | 5.4 mmol, 2.0 M, 2.7 mL | [BH4-].[Li+]
reactant | methanol | 2.47 mmol, 0.10 mL | CO | CH4O
product | 1-(5-(hydroxymethyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 56% yield | OCC1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C16H16F3N3O2S
